US07723330B2
Step B: 4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-2-chloro-5-fluorobenzenamine:
Prepared by process from Example 92, Step B, substituting 1-(4-methoxybenzyl)-4-(5-chloro-2-fluoro-4-nitrophenoxy)-3-methyl-1H-pyrazolo[3,4-b]pyridine (1.59 g, 3.59 mmol). The reaction mixture was diluted with EtOAc (250 mL) and saturated Na2CO3 (50 mL) was added. The solids were filtered through a celite plug and the organic layer was dried over sodium sulfate and concentrated to provide the desired product (1.25 g, 85%). The crude material was used in the next step without purification. LRMS M+1 (413.0) observed.

reactant | 1-(4-methoxybenzyl)-4-(5-chloro-2-fluoro-4-nitrophenoxy)-3-methyl-1H-pyrazolo[3,4-b]pyridine | 3.59 mmol, 1.59 g | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C(=C3)Cl)[N+](=O)[O-])F)C)C=C1 | C21H16ClFN4O4
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-2-chloro-5-fluorobenzenamine | 1.25 g, 85% | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=CC(=C(C=C3F)N)Cl)C)C=C1 | C21H18ClFN4O2
